US07465795B2
4-amino-8-(4-methoxy-3-pyridyl)-N-propyl-cinnoline-3-carboxamide
To a stirred solution of 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide (1.00 g, 2.81 mmol), sodium bicarbonate (473 mg, 5.62 mmol) and tetrakis(triphenylphosphine)palladium(0) (974 mg, 0.84 mmol) in 1,2-dimethoxyethane (180 mL)/water (30 mL) at 85° C. under nitrogen was added the aqueous solution of 4-methoxy-pyridine-3-boronic acid (25 mg/mL) dropwise, maintaining the internal temperature between 80° C. and 85° C. The reaction was monitored by HPLC until completed. Upon the completion, 2.42 equivalents of 4-methoxy-pyridine-3-boronic acid (1.16 g, 6.80 mmol) were applied. The reaction mixture was diluted with methylene chloride (300 mL), washed with water twice, dried through MgSO4, and then the solvent was evaporated. The residual was purified by flash chromatography using a gradient of methanol in methylene chloride to give a yellow solid. The yellow solid was crystallized from methylene chloride/methanol (2/1) to give an off-white needle crystal as the title compound (570 mg, 60.2% yield). 1H NMR (300 MHz, CDCl3) δ 8.58 (d, J=5.8 Hz, 1H), 8.53 (br, 1H), 5.11 (m, 6H), 8.46 (s, 1H), 7.94 (t, J=4.9 Hz, 1H), 7.74 (d, J=4.8 Hz, 2H), 6.96 (d, J=5.8 Hz, 1H), 3.78 (s, 3H), 3.45 (q, J=6.7 Hz, 2H), 1.66 (m, overlapped with H2O), 1.00 (t, J=7.4 Hz, 3H) MS APCI, m/z=338 (M+H) HPLC 1.28 min.

reactant | 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide | 2.81 mmol, 1.00 g | NC1=C(N=NC2=C(C=CC=C12)I)C(=O)NCCC | C12H13IN4O
reactant | sodium bicarbonate | 5.62 mmol, 473 mg | C([O-])(O)=O.[Na+]
reactant | water | 30 mL | O | H2O
reactant | 4-methoxy-pyridine-3-boronic acid | COC1=C(C=NC=C1)B(O)O | C6H8BNO3
reactant | 4-methoxy-pyridine-3-boronic acid | 6.80 mmol, 1.16 g, 2.42 equivalents | COC1=C(C=NC=C1)B(O)O | C6H8BNO3
solvent | 1,2-dimethoxyethane | 180 mL | COCCOC | C4H10O2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.84 mmol, 974 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-amino-8-(4-methoxy-3-pyridyl)-N-propyl-cinnoline-3-carboxamide | 570 mg, 60.2% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC=CC1OC)C(=O)NCCC | C18H19N5O2
